Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15]>>[H:1][C:2]#[C:3][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15].[H:4],1.71360913058
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:10]([H:11])[H:12].[H:9]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12],-1.93107878437
[C:2]#[C:3][C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[O:1]>>[O:1][C:2]#[C:3][C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-6.991607449710001
[C:1]#[C:2][C:3]([H:4])[O:5][C:6]([H:7])[C:8]([H:9])([H:10])[H:11]>>[C:1].[C:2]=[C:3]([H:4])[O:5][C:6]([H:7])[C:8]([H:9])([H:10])[H:11],7.460428366729999
[H:8].[O:1]=[C:2]([H:3])[O:4][C:5]#[C:6][H:7]>>[O:1]=[C:2]([H:3])[O:4][C:5]=[C:6]([H:7])[H:8],-2.37890434282
[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[H:9]>>[H:1][C:2]=[C:3]([H:4])[C:6]([H:7])([H:8])[H:9].[H:5],1.55090278691
[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14]>>[H:1][O:2]/[C:3]([C:4]([H:5])[H:6])=[C:7](/[H:8])[C:10]([H:11])([H:12])[O:13][H:14].[H:9],4.602855401219999
[C:2]([H:3])([H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:9][C:10]([H:11])[H:12].[O:1]>>[O:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:9][C:10]([H:11])[H:12],-3.10709973645
[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7][O:8][H:9]>>[C:3]([H:4])([H:5])[O:6][C:7][O:8][H:9].[H:1][C:2],5.20550311
[O:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:13].[O:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12],4.6401265809300005
[H:1][C:2]([H:3])([H:4])[C:5]([C:6]([H:7])[H:8])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:9]>>[H:1][C:2]([H:3])([H:4])[C:5]([C:6]([H:7])([H:8])[H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-4.60528011182
[H:13].[H:1][C:2]([H:3])([H:4])[C:5][O:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[H:1][C:2]([H:3])([H:4])[C:5][O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-4.52263249809
[C:1]#[C:2][C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:9][H:10]>>[C:1]#[C:2][C:3]([H:4])[C:5]([H:6])=[C:7][H:8].[O:9][H:10],6.42459876526
[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]#[C:10][H:11].[H:1][C:2]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]#[C:10][H:11],-8.492393181499999
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[O:14][H:15]>>[C:3]([H:4])([H:5])=[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[O:14][H:15].[H:1][O:2],2.78476378946
[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11].[O:1]>>[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11],-7.78571553
[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][C:2]([H:3])([H:4])[C:5]([H:6])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:7],4.40027108775
[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13].[H:1][C:2][O:3][C:4][H:5]>>[H:1][C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13],-4.45728640852
[H:1][C:2][O:3][C:4][O:6][C:7]([H:8])([H:9])[H:10].[H:5]>>[H:1][C:2][O:3][C:4]([H:5])[O:6][C:7]([H:8])([H:9])[H:10],-3.35455241809
[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7]([H:8])[H:9]>>[O:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-3.6269314094
[H:1][C:2]#[C:3][C@:5]([H:6])([O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:4]>>[H:1][C:2]=[C:3]([H:4])[C@:5]([H:6])([O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.82121504186
[O:1]=[C:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[O:10][H:11]>>[C:8]([H:9])[O:10][H:11].[O:1]=[C:2][C:3]([H:4])([H:5])[C:6][H:7],6.88781758347
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1].[O:2]=[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],1.7275071463
[O:1][O:2][C:3][C:4]([H:5])([H:6])[H:7]>>[C:3][C:4]([H:5])([H:6])[H:7].[O:1]=[O:2],2.09421118
[C:4]([H:5])[O:6][C:7]([H:8])[H:9].[H:1][O:2][C:3][C:10]([H:11])([H:12])[H:13]>>[H:1][O:2]/[C:3](=[C:4](/[H:5])[O:6][C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-5.35558825342
[C:3](#[C:4][O:5][H:6])[C:7]([H:8])([H:9])[O:10][H:11].[H:1][C:2]>>[H:1][C:2]=[C:3]([C:4][O:5][H:6])[C:7]([H:8])([H:9])[O:10][H:11],-4.35669222107
[C:2]([C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:1]>>[H:1][C:2]([C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-4.90055636201
[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:9]/[C:10]([H:11])([H:12])[H:13].[H:8]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13],-1.91687674278
